US04000218
150 parts of acetone, 71.1 parts of vinyl chloride, 28.9 parts of lauryl methacrylate and 1.5 parts of benzoyl peroxide were charged to an autoclave and heated to 51° C. for 154 hours. The resulting slurry was washed thoroughly with isopropanol, centrifuged and dried for 64 hours at 30° C. and 2.0 mm. Hg. There was obtained a lauryl methacrylate/vinyl chloride copolymer interfacial agent (about 90% conversion) product. Said interfacial agent was a dry white powder and had a reduced viscosity of 0.29 dl./g. as measured on a solution of 0.2 grams in 100 ml. of benzene at 30° C.

reactant | vinyl chloride | C(=C)Cl | C2H3Cl
reactant | lauryl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | acetone | CC(=O)C | C3H6O
product | lauryl methacrylate vinyl chloride | C(C(=C)C)(=O)OCCCCCCCCCCCC.C(=C)Cl | InChI=1S/C16H30O2.C2H3Cl/c1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;1-2-3/h2,4-14H2,1,3H3;2H,1H2
